* FQI85N06 ELECTRICAL MODEL (I2-PAK N-Channel DMOSFET)
* ------------------------
.SUBCKT  FQI85N06  20  10  30
Rg     10    1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS NMOS (VTO={3.9*{-0.00071*TEMP+1.01775}}  KP={88*{-0.00001*TEMP+1.00025}}
+  THETA=0.056   VMAX=1.0E5  LEVEL=3)
Cgs     1    3    3270p
Rd     20    4    2.5m TC=0.0067
Dds     3    4    DDS
.MODEL     DDS    D(BV={60*{0.0008*TEMP+0.98}}   M=0.5  CJO=1085p   
+  VJ=0.8*{0.0022*TEMP+1.055})
Dbody   3   20    DBODY
.MODEL   DBODY    D(IS=4.0E-13    N=1.0   RS=3.5m   EG=1.17    TT=70n)
Ra      4    2    2.3m TC=0.0067
Rs      3    5    0.1m
Ls      5    30   0.55n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    NMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    3320p
Rcgd    7    4    10meg
Dgd     6    4    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.67   CJO=3320p   VJ=0.8)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS FQI85N06
